US07648986B2
Step 1: Preparation of 2-(3-aminophenyl)-N-(1H-indazol-5-yl)thieno[3,2-d]-pyrimidin-4-amine
2-Chloro-N-(1H-indazol-5-yl)thieno[3,2-d]pyrimidin-4-amine (10 mmol, 1 equivalent) was suspended in dimethyl ethylene glycol (60 mL) and Na2CO3 solution (2M, 10 mL) and flushed with argon for 20 min. To this suspension 3-aminophenyl boronic acid (25 mmol, 2.5 eq) and Pd(PPh3)4 (2.5 mmol, 0.25 eq) were added. The reaction mixture was refluxed under AR at 100° C. for 48 h. The solvent was evaporated off in vacuo. The residue was taken into THF (100 mL) plus EtOAc/water. (100 mL, 1:1). The organic layer was evaporated to dryness. The residue was separated by silica gel column chromatography (0-5% MeOH in CH2Cl2). The product was obtained as yellow powder (2.04 g, 57%). (M+H)+=359, RT (LC-MS)=1.93.

reactant | 2-Chloro-N-(1H-indazol-5-yl)thieno[3,2-d]pyrimidin-4-amine | 10 mmol, 1 equivalent | ClC=1N=C(C2=C(N1)C=CS2)NC=2C=C1C=NNC1=CC2 | C13H8ClN5S
reactant | 3-aminophenyl boronic acid | 25 mmol, 2.5 eq | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
solvent | dimethyl ethylene glycol | 60 mL | CC(C(C)O)O | C4H10O2
catalyst | Pd(PPh3)4 | 2.5 mmol, 0.25 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-aminophenyl)-N-(1H-indazol-5-yl)thieno[3,2-d]-pyrimidin-4-amine | 2.04 g, 57% | NC=1C=C(C=CC1)C=1N=C(C2=C(N1)C=CS2)NC=2C=C1C=NNC1=CC2 | C19H14N6S
